US06881733B1
2-(2-bromo-5-methoxyphenoxy)acetaldehyde diethyl acetal
A mixture of 16.0 gm (78.8 mMol) 2-bromo-5-methoxyphenol, 10.9 gm (78.8 mMol) potassium carbonate, and 15.5 gm (78.8 mMol) bromoacetaldehyde diethyl acetal in 300 mL dimethylformamide was heated at 142° C. for 16 hours. The reaction mixture was then cooled to room temperature and diluted with 100 mL 2N sodium hydroxide followed by 500 mL ethyl acetate. This mixture was washed twice with 1 L of water. The combined aqueous washes were extracted twice with 300 mL portions of ethyl acetate. All organic phases were combined, washed with 1 L of water, washed with 1 L of saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated under reduced pressure to provide the desired compound as a dark amber oil.

reactant | 2-bromo-5-methoxyphenol | 78.8 mMol, 16.0 gm | BrC1=C(C=C(C=C1)OC)O | C7H7BrO2
reactant | potassium carbonate | 78.8 mMol, 10.9 gm | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetaldehyde diethyl acetal | 78.8 mMol, 15.5 gm | C(C)OC(CBr)OCC | C6H13BrO2
reactant | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
solvent | sodium hydroxide | 2N, 100 mL | [OH-].[Na+]
product | 2-(2-bromo-5-methoxyphenoxy)acetaldehyde diethyl acetal | C(C)OC(COC1=C(C=CC(=C1)OC)Br)OCC | C13H19BrO4
